US05484944
To a stirring suspension of 4-Oxo-4,5,6,7-tetrahydrobenzofuran-3 -carboxylic acid (28.2 g, 157 mmol) in ethanol (500 mL) under Nitrogen at ambient temperature was added acetyl chloride(56 mL, 783 mmol) dropwise. After stirring 1 h, the solution was then heated at reflux for 1 h. The solution was cooled and concentrated in vacuo. The residue was taken up into dichloromethane, washed with aqueous sodium bicarbonate, washed quickly with 1N sodium hyroxide, dried over magnesium sulfate, filtered, and concentrated in vacuo to afford Ethyl 4-oxo-4,5,6,7-tetrahydrobenzofuran-3-carboxylate as an oil. A mixture of this ester (24.46 g, 117 mmol) and ammonium acetate (15.85 g, 206 mmol) in dimethylformamide (225 mL) was heated at 100° C. under Nitrogen for 1.25 h. The mixture was cooled, poured into ice water, and extracted two times with dichloromethane. The combined organic extracts were washed with water, dried over magnesium sulfate, filtered, concentrated in vacuo, and the residue triturated with ether to give Ethyl 4-oxo-4,5,6,7-tetrahydroindole-3-carboxylate. A mixture of this ester (11.31 g, 55 mmol) in 5N sodium hydroxide (200 mL) and ethanol (20 mL) was heated at reflux for 1 h. After cooling in an ice bath, the mixture was acididified with concentrated hydrochloric acid, the precipitate filtered, rinsed with ice water, and dried in vacuo to afford 4-Oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid.

reactant | 4-Oxo-4,5,6,7-tetrahydrobenzofuran-3 -carboxylic acid | 157 mmol, 28.2 g | O=C1CCCC2=C1C(=CO2)C(=O)O | C9H8O4
reactant | acetyl chloride | 783 mmol, 56 mL | C(C)(=O)Cl | C2H3ClO
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | Ethyl 4-oxo-4,5,6,7-tetrahydrobenzofuran-3-carboxylate | O=C1CCCC2=C1C(=CO2)C(=O)OCC | C11H12O4
